US09238640B2
A mixture of 2-amino-4,6-difluoro-benzamide (0.96 g, 5.60 mmol), 4-(2-hydroxy-ethoxy)-3,5-dimethyl-benzaldehyde (1.09 g, 5.60 mmol), NaHSO3 (58.5 wt %, 1.00 g, 5.60 mmol) and p-toluenesulfonic acid monohydrate (1.44 g, 7.06 mmol) in N,N-dimethylacetamide (25 mL) was stirred at 120° C. for 16 hours, then cooled to room temperature. Solvent was removed under reduced pressure. The residue was diluted with water (100 mL). The solid separated was filtered and washed with water and dried under vacuum to give 5,7-difluoro-2-[4-(2-hydroxy-ethoxy)-3,5-dimethyl-phenyl]-3H-quinazolin-4-one as a white solid. Yield: 1.55 g (79%).

reactant | 2-amino-4,6-difluoro-benzamide | 5.60 mmol, 0.96 g | NC1=C(C(=O)N)C(=CC(=C1)F)F | C7H6F2N2O
reactant | 4-(2-hydroxy-ethoxy)-3,5-dimethyl-benzaldehyde | 5.60 mmol, 1.09 g | OCCOC1=C(C=C(C=O)C=C1C)C | C11H14O3
reactant | NaHSO3 | 5.60 mmol, 1.00 g | OS(=O)[O-].[Na+]
reactant | p-toluenesulfonic acid monohydrate | 7.06 mmol, 1.44 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | N,N-dimethylacetamide | 25 mL | CN(C(C)=O)C | C4H9NO
product | 5,7-difluoro-2-[4-(2-hydroxy-ethoxy)-3,5-dimethyl-phenyl]-3H-quinazolin-4-one | FC1=C2C(NC(=NC2=CC(=C1)F)C1=CC(=C(C(=C1)C)OCCO)C)=O | C18H16F2N2O3
